US08309562B2
(2-Isopropoxy-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
A mixture of (2-chloroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine 0.150 g (0.5 mmol) with NH4F 0.500 g (13.5 mmol) in isopropanol 4 mL was stirred at reflux for 14 h. After removal of isopropanol, the residue was dissolved in dichloromethane, and the organic solution was washed with water, and dried over anhydrous MgSO4. After removal of solvent under reduced pressure, the title compound was obtained. 1H NMR (CD3OD, 400 MHz) δ 7.57-7.60 (m, 1H), 7.42-7.46 (m, 1H), 7.10-7.18 (m, 2H), 6.89-6.97 (m, 3H), 6.79-6.84 (m, 1H), 5.45-5.51 (m, 1H), 3.83 (s, 3H), 3.58 (s, 3H), 1.46 (d, J=6.3 Hz, 6H); HRMS (ES) m/z calcd for C19H21N3O2 (M+H) 324.1706, found 324.1954.

reactant | (2-chloroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine | 0.5 mmol, 0.150 g | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | NH4F | 13.5 mmol, 0.500 g | [NH4+].[F-]
solvent | isopropanol | 4 mL | C(C)(C)O | C3H8O
product | (2-Isopropoxy-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | C(C)(C)OC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C19H21N3O2
